US08975406B2
5-Bromo-3-fluoropicolinic acid (1.4 g, 6.5 mmol), N,O-dimethylhydroxylamine.HCl (0.82 g, 8.45 mmol), (2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate) (3.2 g, 8.45 mmol) and triethylamine (2.3 mL, 16.3 mmol) were stirred in DMF (30 mL) at room temperature for 1 d. EtOAc and sat. aq. Na2CO3 solution was added and the aqueous phase extracted with EtOAc. The combined organics were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography using silica gel and eluting with 20-80% EtOAc in isohexane to afford 5-bromo-3-fluoro-N-methoxy-N-methylpicolinamide.

reactant | 5-Bromo-3-fluoropicolinic acid | 6.5 mmol, 1.4 g | BrC=1C=C(C(=NC1)C(=O)O)F | C6H3BrFNO2
reactant | N,O-dimethylhydroxylamine | CNOC | C2H7NO
reactant | HCl | 8.45 mmol, 0.82 g | Cl | ClH
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 16.3 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-3-fluoro-N-methoxy-N-methylpicolinamide | BrC=1C=C(C(=NC1)C(=O)N(C)OC)F | C8H8BrFN2O2
